US06303615B1
Anhydrous zinc chloride (2.7 g, 20 mmol) was fused with a nitrogen purge in a round bottom flask with an open flame. The reaction vessel was allowed to return to ambient temperature, at which time dioxane (150 mL) was then added. To this mixture was added 6-fluoro-2-methyl-3-(2-methyl-pyridin-3-yl)-3H-quinazolin-4-one (2.6 g, 10 mmol), acetic anhydride (2.8 mL, 30 mmol), and 2-methylthiazole-4-carboxaldehyde (3.7 g, 30 mmol). The reaction was refluxed 2 hours, cooled to ambient temperature, and diluted with water. Sodium carbonate was added until the mixture was basic. The mixture was repeatedly extracted with chloroform. The combined chloroform layer was washed with water and brine and finally dried over sodium sulfate and concentrated to leave a dark residue. This residue treated with methanol and concentrated (effectively azeotroping residual chloroform from the residue) and this process was repeated to leave a brown solid. The solid was triturated with ether (twice), filtered and dried to afford 3.1 g (82%) of 6-fluoro-3-(2-methyl-pyridin-3-yl)-2-[2-(2-methyl-thiazol-4-yl)-vinyl]-3H-quinazolin-4-one as tan solid.

reactant | 6-fluoro-2-methyl-3-(2-methyl-pyridin-3-yl)-3H-quinazolin-4-one | 10 mmol, 2.6 g | FC=1C=C2C(N(C(=NC2=CC1)C)C=1C(=NC=CC1)C)=O | C15H12FN3O
reactant | acetic anhydride | 30 mmol, 2.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methylthiazole-4-carboxaldehyde | 30 mmol, 3.7 g | CC=1SC=C(N1)C=O | C5H5NOS
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
catalyst | zinc chloride | 20 mmol, 2.7 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | CO | CH4O
product | 6-fluoro-3-(2-methyl-pyridin-3-yl)-2-[2-(2-methyl-thiazol-4-yl)-vinyl]-3H-quinazolin-4-one | 3.1 g, 82% | FC=1C=C2C(N(C(=NC2=CC1)C=CC=1N=C(SC1)C)C=1C(=NC=CC1)C)=O | C20H15FN4OS
